US04415501
Preparation of 4-methyl-4-triethylsilyloxy-1-octyne(Vla, R1 =methyl, R3 =triethylsilyl, R4 =n-butyl).
A solution of 175.8 g of 4-hydroxy-4-methyl-1-octyne (U.S. Pat. No. 4,233,231 ), 112.1 g of imidazole and 625 ml of dry dimethylformamide (DMF) was stirred under dry nitrogen and 207.9 g of triethylchlorosilane added. The resulting homogenous solution was stirred at 50°-55° for 19 hours, then cooled to 25° C. and partitioned between hexane and water. The hexane layer was washed three times with water, then dried over anhydrous magnesium sulfate (MgSO4), and hexane evaporated in vacuo. The concentrate was distilled to yield 94.7% of the title compound as a colorless liquid, bp 60°-61° C. (0.20 mm Hg).

reactant | 4-hydroxy-4-methyl-1-octyne | 175.8 g | OC(CC#C)(CCCC)C | C9H16O
reactant | imidazole | 112.1 g | N1C=NC=C1 | C3H4N2
reactant | triethylchlorosilane | 207.9 g | C(C)[Si](Cl)(CC)CC | C6H15ClSi
solvent | dimethylformamide | 625 ml | CN(C=O)C | C3H7NO
product | 4-methyl-4-triethylsilyloxy-1-octyne | 94.7% | CC(CC#C)(CCCC)O[Si](CC)(CC)CC | C15H30OSi
